US08486979B2
5-(5-bromopyridin-3-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 1 using N′-hydroxynicotinimidamide (Aldrich) and 5-bromonicotinoyl chloride (Alfa). 1H NMR (300 MHz, DMSO-d6) δ 8.65-8.69 (m, 1 H), 8.45-8.49 (m, 1 H), 8.79 (t, J=1.7 Hz, 1 H), 8.84 (dd, J=1.7, 2.0 Hz, 1 H), 9.07 (d, J=2 Hz, 1 H), 9.28-9.29 (m, 1 H), 9.34 (d, J=1.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 303 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 5-bromonicotinoyl chloride | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | NH3 | N | H3N
product | 5-(5-bromopyridin-3-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | BrC=1C=C(C=NC1)C1=NC(=NO1)C=1C=NC=CC1 | C12H7BrN4O
